datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC1=CC=C([CH:21](C(=O)C2=C[N+](C)=CC=C2)[H:20])C=C1.COCC[O-:10]>>CC1=CC=C([CH-:21]C(=O)C2=C[N+](C)=CC=C2)C=C1.COCC[O:10][H:20] 10=20;20,21=21",
"Clc1ncnc2nc[n-:10]c12.O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCCCC[N+:21]1([H:20])CCOCC1>>Clc1ncnc2nc[n:10]([H:20])c12.O=C(Cc1ccccc1Nc1c(Cl)cccc1Cl)OCCCC[N:21]1CCOCC1 10=20;20,21=21",
"Nc1c[n:10]cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.Nc1ccc(S(=O)(=O)[N:21](c2ccc(N)nc2)[H:20])cc1>>Nc1c[n+:10]([H:20])cn1[C@H]1O[C@@H](CO)[C@H](O)[C@@H]1O.Nc1ccc(S(=O)(=O)[N-:21]c2ccc(N)nc2)cc1 10=20;20,21=21",
"Cc1ccc(C[NH:10]CC[NH3+])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc(C[NH+:10](CC[NH3+])[H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"COc1ccc(CC(C)[NH+:21](C)[H:20])cc1OC.c1c[nH]c(C[S-:10])n1>>COc1ccc(CC(C)[NH:21]C)cc1OC.c1c[nH]c(C[S:10][H:20])n1 10=20;20,21=21",
"C=CC(C)(C)[NH:10]C(C)(C)C=C.[H][C:21](C(C)=O)(C(C)=O)[H:20]>>C=CC(C)(C)[NH+:10](C(C)(C)C=C)[H:20].[H][C-:21](C(C)=O)C(C)=O 10=20;20,21=21",
"C[NH+](C)C[C@H]1[C@@H]2CC[C@@](C)([C@H]1[NH2+:21][H:20])C2(C)C.[O-]c1ccc(CC[NH2:10])cc1>>C[NH+](C)C[C@H]1[C@@H]2CC[C@@](C)([C@H]1[NH2:21])C2(C)C.[O-]c1ccc(CC[NH2+:10][H:20])cc1 10=20;20,21=21",
"COc1ccc([N+](=O)[O-])cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N+:21]2(Cc1ccccc1)[H:20].COc1ccc2c(c1)nnn2[O-:10]>>COc1ccc([N+](=O)[O-])cc1C(=O)N[C@@H]1C[C@H]2CC[C@@H](C1)[N:21]2Cc1ccccc1.COc1ccc2c(c1)nnn2[O:10][H:20] 10=20;20,21=21",
"[H:20][OH:21].C1CC2=N[N+](=[C-:10]N2C1)C3=C(C(=C(C(=C3F)F)F)F)F>>[H:20][C:10]1=[N+](N=C2N1CCC2)C3=C(C(=C(C(=C3F)F)F)F)F.[OH-:21] 10=20;20,21=21",
"CCCCCCCCCCCC[NH:10]CCCCCCCCCCCC.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CCCCCCCCCCCC[NH+:10](CCCCCCCCCCCC)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O-:10].NCCC[NH2+:21][H:20]>>C[NH+](C)Cc1cc([N+](=O)[O-])ccc1[O:10][H:20].NCCC[NH2:21] 10=20;20,21=21",
"C1C[N:10](CC2CO2)CCO1.CCC(O)C[N+:21](CC(O)CC)(C(C)(C)C)[H:20]>>C1C[N+:10](CC2CO2)([H:20])CCO1.CCC(O)C[N:21](CC(O)CC)C(C)(C)C 10=20;20,21=21",
"C=C(C)[C@@H]1C[NH:10][C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].O=C([C@@H]1O[C@H](Oc2c[nH+]c3ccccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O:21][H:20]>>C=C(C)[C@@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@@H]1CC(=O)[O-].O=C([C@@H]1O[C@H](Oc2c[nH+]c3ccccc3c2)[C@@H](O)[C@H](O)[C@H]1O)[O-:21] 10=20;20,21=21",
"CC(O)(C(=O)[O:21][H:20])c1ccccc1.COc1cc(S(C)=O)ccc1-c1nc2cnncc2[n-:10]1>>CC(O)(C(=O)[O-:21])c1ccccc1.COc1cc(S(C)=O)ccc1-c1nc2cnncc2[n:10]1[H:20] 10=20;20,21=21",
"Cc1ccc(N[N:10]=C(C#N)C#N)c([N+](=O)[O-])c1.O=[N+]([O-])c1ccc2ccccc2c1[NH2+:21][H:20]>>Cc1ccc(N[N+:10](=C(C#N)C#N)[H:20])c([N+](=O)[O-])c1.O=[N+]([O-])c1ccc2ccccc2c1[NH2:21] 10=20;20,21=21",
"CCSC(C)[O-:10].COC1=CC([C:21](C)([N+](=O)[O-])[H:20])=CC=C1>>CCSC(C)[O:10][H:20].COC1=CC([C-:21](C)[N+](=O)[O-])=CC=C1 10=20;20,21=21",
"O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].c1ccc(CN2CCC([NH2:10])CC2)cc1>>O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.c1ccc(CN2CCC([NH2+:10][H:20])CC2)cc1 10=20;20,21=21",
"Nc1ccc([O-:10])c(N)c1.[NH3+]c1ccc(C(=O)N[NH2+:21][H:20])cc1>>Nc1ccc([O:10][H:20])c(N)c1.[NH3+]c1ccc(C(=O)N[NH2:21])cc1 10=20;20,21=21",
"CCN(CC)Cc1cc(C)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CCN(CC)Cc1cc(C)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[N:10]1CCCC1c1ccccc1.Nc1ccc(S(=O)(=O)[NH:21][H:20])cc1>>C[N+:10]1([H:20])CCCC1c1ccccc1.Nc1ccc(S(=O)(=O)[NH-:21])cc1 10=20;20,21=21",
"Cc1ccc2c([N+](=O)[O-])ccc([O-:10])c2n1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>Cc1ccc2c([N+](=O)[O-])ccc([O:10][H:20])c2n1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCC[NH:10]CCC(N)=NO.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CCCC[NH+:10](CCC(N)=NO)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC[NH+](CC)CCOCC[N:10](C)CC.Cc1cccc(C=O)[n+:21]1[H:20]>>CC[NH+](CC)CCOCC[N+:10](C)(CC)[H:20].Cc1cccc(C=O)[n:21]1 10=20;20,21=21",
"CC(O)C[NH:10]CCO.O=C(C1=CC=CC=C1)[CH:21]([N+](=O)[O-])[H:20]>>CC(O)C[NH+:10](CCO)[H:20].O=C(C1=CC=CC=C1)[CH-:21][N+](=O)[O-] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].CC(C)(C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.CC(C)(C)[NH2+:10][H:20] 10=20;20,21=21",
"C[N:10]1C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.O=C(c1c[nH]c2ccccc12)[O:21][H:20]>>C[N+:10]1([H:20])C[C@@H](C(=O)[O-])C[C@@]2(O)c3cccc4[nH]cc(c34)C[C@@H]21.O=C(c1c[nH]c2ccccc12)[O-:21] 10=20;20,21=21",
"CC(C)NCC[NH:10]C(C)C.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CC(C)NCC[NH+:10](C(C)C)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[NH:10]C.[NH3+]C(CCc1ccc([N+](=O)[O-])cc1)C(=O)[O:21][H:20]>>C[NH+:10](C)[H:20].[NH3+]C(CCc1ccc([N+](=O)[O-])cc1)C(=O)[O-:21] 10=20;20,21=21",
"COc1ccc2c(c1)[NH+:21]([H:20])CC[NH2+]2.c1ccc([N:10]2CCCC2)cc1>>COc1ccc2c(c1)[NH:21]CC[NH2+]2.c1ccc([N+:10]2([H:20])CCCC2)cc1 10=20;20,21=21",
"COC(=O)C=C(C)[O-:10].C[NH2+]CC[NH+:21](CC[NH3+])[H:20]>>COC(=O)C=C(C)[O:10][H:20].C[NH2+]CC[NH:21]CC[NH3+] 10=20;20,21=21",
